US08536203B2
To a stirred solution of 4-benzyloxy-3-methoxyphenylboronic acid (1.0 g, 3.87 mmol) and 2-(3-bromophenyl)-6-(trifluoromethyl)pyridine (1.063 g, 3.52 mmol) in toluene (10 mL) and ethanol (1 mL) at room temperature under argon was added 2 N aqueous sodium carbonate solution (5.41 mL, 10.82 mmol) followed by tetrakis(triphenylphosphine)palladium (0.22 g, 0.19 mmol). The resulting mixture was stirred at 90° C. for two hours and then allowed to cool to room temperature. The phases were separated and the aqueous phase was extracted with toluene (5 mL). The combined organic phases were washed with water and brine, then dried over anhydrous sodium sulphate and filtered. Evaporation of the solvent left a brown oil that was chromatographed over silica gel (petroleum ether/ethyl acetate, 9:1) to give 2-(4′-(benzyloxy)-3′-methoxybiphenyl-3-yl)-6-(trifluoromethyl)pyridine as a clear oil, 1.072 g (70%).

reactant | 4-benzyloxy-3-methoxyphenylboronic acid | 3.87 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)OC | C14H15BO4
reactant | 2-(3-bromophenyl)-6-(trifluoromethyl)pyridine | 3.52 mmol, 1.063 g | BrC=1C=C(C=CC1)C1=NC(=CC=C1)C(F)(F)F | C12H7BrF3N
reactant | sodium carbonate | 10.82 mmol, 2 N, 5.41 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.19 mmol, 0.22 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4′-(benzyloxy)-3′-methoxybiphenyl-3-yl)-6-(trifluoromethyl)pyridine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CC(=CC=C1)C1=NC(=CC=C1)C(F)(F)F)OC | C26H20F3NO2
